US06818644B1
c. 9-[4-(4-biphenyl-4-yl-piperazin-1-yl)-butyl]-9H-fluorene-9-carboxylic acid-(2,2,2-trifluoroethyl)-amide
A solution of 0.4 g (1.678 mmol) of 1-biphenyl-4-yl-piperazine, 0.682 g (1.6 mmol) of 9-(4-bromo-butyl)-9H-fluorene-9-carboxylic acid-(2,2,2-trifluoroethyl)-amide and 0.223 ml (1.6 mmol) of triethylaminein 20 ml acetonitrile is stirred for 14 hours at 60° C. and then diluted with water. It is extracted with ethyl acetate and the organic phase is dried over sodium sulphate. Purification is by column chromatography on silica gel (eluant: dichloromethane/ethanol=40:1).

reactant | 1-biphenyl-4-yl-piperazine | 1.678 mmol, 0.4 g | C1(=CC=C(C=C1)N1CCNCC1)C1=CC=CC=C1 | C16H18N2
reactant | 9-(4-bromo-butyl)-9H-fluorene-9-carboxylic acid-(2,2,2-trifluoroethyl)-amide | 1.6 mmol, 0.682 g | FC(CNC(=O)C1(C2=CC=CC=C2C=2C=CC=CC12)CCCCBr)(F)F | C20H19BrF3NO
reactant | acetonitrile | 20 ml | C(C)#N | C2H3N
solvent | water | O | H2O
product | 9-[4-(4-biphenyl-4-yl-piperazin-1-yl)-butyl]-9H-fluorene-9-carboxylic acid-(2,2,2-trifluoroethyl)-amide | FC(CNC(=O)C1(C2=CC=CC=C2C=2C=CC=CC12)CCCCN1CCN(CC1)C1=CC=C(C=C1)C1=CC=CC=C1)(F)F | C36H36F3N3O
